US04136174
A. 4-[(Trimethylsilyl)methylthio]-2-nitroaniline
To a stirred solution of 1.95 g of 4-thiocyanato-2-nitroaniline in 40 ml of CH3CN blanketed by nitrogen there is added in portions 0.5 g of NaBH4. The stirring is continued for one hour. At this time the color of the reaction mixture changes from yellow to dark purple. 1.4 ml of chloromethyltrimethylsilane is added with a syringe and the mixture is refluxed overnight. The solvent is evaporated and the residue is exhaustively extracted with petroleum ether. Evaporation of the solvent yields 1.9 g of the title A compound as a red solid.

reactant | 4-thiocyanato-2-nitroaniline | 1.95 g | S(C#N)C1=CC(=C(N)C=C1)[N+](=O)[O-] | C7H5N3O2S
reactant | NaBH4 | 0.5 g | [BH4-].[Na+]
reactant | chloromethyltrimethylsilane | 1.4 ml | ClC[Si](C)(C)C | C4H11ClSi
solvent | CH3CN | 40 ml | CC#N | C2H3N
product | 4-[(Trimethylsilyl)methylthio]-2-nitroaniline | C[Si](C)(C)CSC1=CC(=C(N)C=C1)[N+](=O)[O-] | C10H16N2O2SSi
